US07153875B2
To a vigorously stirred suspension of 3-bromo4-hydroxy-5-methoxy-benzaldehyde (15.20 g, 65.8 mmol), AlCl3 (9.65 g, 72.4 mmol) in CH2Cl2 (100 mL) at 0° C. with exclusion of moisture was added pyridine (22.90 g, 290 mmol, 23.4 mL) to keep the temperature below 32° C. The resulting clear dark solution was heated to reflux for 24 hours and cooled to RT. The mixture was poured into a slurry of 1 N HCl and ice. The CH2Cl2 layer was removed and the aqueous suspension was extracted with ether till clear. The combined ether layers were dried over anhydrous magnesium sulfate, filtered and evaporated to a volume of approximately 200 mL and cooled to 0° C. for 2 hours. The resulting suspension was collected by filtration and dried under high vacuum to give 10.12 g of 3-bromo-4,5-dihydroxybenzaldehyde (71%) as a tan solid. 1H NMR (500 MHz; CDCl3): δ 7.18 (s, 1H); 7.37 (d, J=2.0 Hz, 1H); 8.48 (brs, 1H); 9.40 (brs, 1H); 9.56 (s, 1H).

reactant | 3-bromo4-hydroxy-5-methoxy-benzaldehyde | 65.8 mmol, 15.20 g | BrC=1C=C(C=O)C=C(C1O)OC | C8H7BrO3
reactant | AlCl3 | 72.4 mmol, 9.65 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | pyridine | 290 mmol, 23.4 mL, 22.90 g | N1=CC=CC=C1 | C5H5N
reactant | HCl | 1 N | Cl | ClH
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-bromo-4,5-dihydroxybenzaldehyde | 10.12 g, 71% | BrC=1C=C(C=O)C=C(C1O)O | C7H5BrO3
